US04804658
A stirred suspension of 4-(1H-imidazo[4,5-c]pyridin-1-ylmethyl)benzoic acid, potassium salt (0.78 g, 0.0027 mol) in dry dimethylformamide (5 ml) was treated with N-methylcyclohexylamine (0.36 g, 0.0032 mol) and triethylamine (0.54 g, 0.0054 mol). The reaction mixture was cooled to -5° C. and then treated with diphenylphosphoryl azide (0.81 g, 0.0030 mol). The resulting mixture was allowed to warm up to room temperature and stirred for an additional 15 hours. The solvent was evaporated off under reduced pressure to yield a crude product which was purified by column chromatography (silica gel, 5% ethanol in chloroform) and recrystallized from ethyl acetate to yield N-cyclohexyl-N-methyl-4-(1H-imidazo[4,5-c]pyridin-1-yl-methyl)benzamide as a colorless crystalline solid, having a melting point of 132°-134° C. and the following physical characteristics:

reactant | 4-(1H-imidazo[4,5-c]pyridin-1-ylmethyl)benzoic acid | N1(C=NC=2C=NC=CC21)CC2=CC=C(C(=O)O)C=C2 | C14H11N3O2
reactant | potassium | 0.0027 mol, 0.78 g | [K] | K
reactant | N-methylcyclohexylamine | 0.0032 mol, 0.36 g | CNC1CCCCC1 | C7H15N
reactant | triethylamine | 0.0054 mol, 0.54 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.0030 mol, 0.81 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-cyclohexyl-N-methyl-4-(1H-imidazo[4,5-c]pyridin-1-yl-methyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)CN1C=NC=2C=NC=CC21)=O)C | C21H24N4O
